US09290451B2
a) 5-Bromo-6-(tetrahydro-furan-2-ylmethoxy)-pyridine-2-carboxylic acid
5-Bromo-6-chloropicolinic acid (200 mg, 846 μmol; CAN 959958-25-9) and powdered potassium hydroxide (190 mg, 3.38 mmol) were combined with DMSO (1.93 mL) to give a colorless solution which was stirred for 15 min at ambient temperature before tetrahydro-2-furanmethanol (130 mg, 123 μl, 1.27 mmol, CAN 97-99-4) was added, and stirring continued for 1 day at ambient temperature. The reaction mixture was poured into a mixture of ice-water and 1 M NaOH, and extracted with t-butylmethyl ether (2×25 mL) and washed with ice-water/brine. The water phases were combined acidified with ice/1 N HCl and extracted with isopropyl acetate (2×30 mL). The organic layers were washed with ice-water/brine (2×30 mL), dried with Na2SO4 and concentrated in vacuo to give the title compound (254 mg, 99%) as light brown oil; MS (ESI): 301.8 [M−H]−.

reactant | 5-Bromo-6-chloropicolinic acid | 846 μmol, 200 mg | BrC=1C=CC(=NC1Cl)C(=O)O | C6H3BrClNO2
reactant | potassium hydroxide | 3.38 mmol, 190 mg | [OH-].[K+]
reactant | tetrahydro-2-furanmethanol | 1.27 mmol, 123 μl, 130 mg | O1C(CCC1)CO | C5H10O2
reactant | NaOH | 1 M | [OH-].[Na+]
solvent | DMSO | 1.93 mL | CS(=O)C | C2H6OS
product | 5-Bromo-6-(tetrahydro-furan-2-ylmethoxy)-pyridine-2-carboxylic acid | 254 mg, 99% | BrC=1C=CC(=NC1OCC1OCCC1)C(=O)O | C11H12BrNO4
